### PR TITLE
[Merged by Bors] - feat(Analysis): lconvolution API

### PR DESCRIPTION
**Pull request by DavidLedvinka**
Add aemeasurability, associativity and commutativity theorems for mlconvolution (and lconvolution).

### CODE REVIEW

File: Mathlib/Analysis/LConvolution.lean [hunk 1]
```diff
@@ -71,13 +76,74 @@ theorem zero_mlconvolution (f : G → ℝ≥0∞) (μ : Measure G) : 0 ⋆ₗ[μ
...
+
+section Group
+
+variable [Group G] [MeasurableMul₂ G] [MeasurableInv G]
+
+variable {μ : Measure G} [IsMulLeftInvariant μ] [SFinite μ]
+
+/-- The convolution of AEMeasurable functions is AEMeasurable. -/
+@[to_additive (attr := measurability, fun_prop)
+"The convolution of AEMeasurable functions is AEMeasurable"]
```
Comment (EtienneC30) [inline Mathlib/Analysis/LConvolution.lean:103]: Can you either write `` `AEMeasurable` `` or `almost-everywhere measurable`?

File: Mathlib/Analysis/LConvolution.lean [hunk 2]
```diff
@@ -71,13 +76,74 @@ theorem zero_mlconvolution (f : G → ℝ≥0∞) (μ : Measure G) : 0 ⋆ₗ[μ
...
+  ext x
+  simp only [mlconvolution_def]
+  conv in f _ * (∫⁻ _ , _ ∂μ) =>
+    rw [← lintegral_const_mul'' _ (by fun_prop), ← lintegral_mul_left_eq_self _ y⁻¹]
+  conv in (∫⁻ _ , _ ∂μ) * k _ =>
+    rw [← lintegral_mul_const'' _ (by fun_prop)]
+  rw [lintegral_lintegral_swap]
+  · simp [mul_assoc]
+  simp only [mul_inv_rev, inv_inv, mul_assoc, mul_inv_cancel_left]
+  fun_prop
```
Comment (EtienneC30) [inline Mathlib/Analysis/LConvolution.lean:123]: Small shortening.
```suggestion
  simpa [mul_assoc] using by fun_prop
```

File: Mathlib/Analysis/LConvolution.lean [hunk 3]
```diff
@@ -71,13 +76,74 @@ theorem zero_mlconvolution (f : G → ℝ≥0∞) (μ : Measure G) : 0 ⋆ₗ[μ
...
+
+/- Convolution is associative. -/
+@[to_additive "Convolution is associative."]
+theorem mlconvolution_assoc {f g k : G → ℝ≥0∞}
+    (hf : Measurable f) (hg : Measurable g) (hk : Measurable k) :
+    f ⋆ₗ[μ] g ⋆ₗ[μ] k = (f ⋆ₗ[μ] g) ⋆ₗ[μ] k :=
+  mlconvolution_assoc₀ (hf.aemeasurable) (hg.aemeasurable) (hk.aemeasurable)
```
Comment (EtienneC30) [inline Mathlib/Analysis/LConvolution.lean:130]:
```suggestion
  mlconvolution_assoc₀ hf.aemeasurable hg.aemeasurable hk.aemeasurable
```

File: Mathlib/Analysis/LConvolution.lean [hunk 4]
```diff
@@ -71,13 +76,74 @@ theorem zero_mlconvolution (f : G → ℝ≥0∞) (μ : Measure G) : 0 ⋆ₗ[μ
...
+
+end Group
+
+section CommGroup
+
+variable [CommGroup G] [MeasurableMul₂ G] [MeasurableInv G] (μ : Measure G)
```
Comment (EtienneC30) [inline Mathlib/Analysis/LConvolution.lean:136]: I don't think we need the measure to be explicit?
```suggestion
variable [CommGroup G] [MeasurableMul₂ G] [MeasurableInv G] {μ : Measure G}
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/Analysis/LConvolution.lean [hunk 5]
```diff
@@ -71,13 +76,73 @@ theorem zero_mlconvolution (f : G → ℝ≥0∞) (μ : Measure G) : 0 ⋆ₗ[μ
...
+
+section Group
+
+variable [Group G] [MeasurableMul₂ G] [MeasurableInv G]
+
+variable {μ : Measure G} [IsMulLeftInvariant μ] [SFinite μ]
+
+/-- The convolution of `AEMeasurable` functions is `AEMeasurable`. -/
+@[to_additive (attr := measurability, fun_prop)
+"The convolution of `AEMeasurable` functions is `AEMeasurable`"]
```
Comment (EtienneC30) [inline Mathlib/Analysis/LConvolution.lean:103]: Thanks!
maintainer delegate
```suggestion
"The convolution of `AEMeasurable` functions is `AEMeasurable`."]
```

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
